US06124110
HEPES/NaCl buffer.
6 mM HEPES, 139 mM NaCl, 3.5 g albumin per 1 buffer, pH 7.35;

reactant | HEPES | 6 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | NaCl | 139 mM | [Na+].[Cl-]
product | HEPES NaCl | C1CN(CCN1CCO)CCS(=O)(=O)O.[Na+].[Cl-] | InChI=1S/C8H18N2O4S.ClH.Na/c11-7-5-9-1-3-10(4-2-9)6-8-15(12,13)14;;/h11H,1-8H2,(H,12,13,14);1H;/q;;+1/p-1
